US07345068B2
Ethyl ester of 3-bromomethylflavone-8-carboxylic acid was reacted with dimethylamine in a conventional manner and the resultant product was reduced to give 3-dimethylaminomethylflavone-8-methanol.

reactant | 3-bromomethylflavone-8-carboxylic acid | BrCC1=C(OC2=C(C=CC=C2C1=O)C(=O)O)C1=CC=CC=C1 | C17H11BrO4
reactant | dimethylamine | CNC | C2H7N
product | 3-dimethylaminomethylflavone-8-methanol | CN(C)CC1=C(OC2=C(C=CC=C2C1=O)CO)C1=CC=CC=C1 | C19H19NO3
